US04525540
Phosgene gas was slowly bubbled into a solution of 1,4-diphenyl-2,3-butanediol (Neher (1963) Hel. Chim. Acta. 46:1083) (96 mg, 0.4 mmole) and triethylamine (0.16 ml, 1 mmole) in anhydrous ethyl ether (75 ml). After 15 min, the phosgene addition was stopped, the solution filtered, and the solvent removed in vacuo (20° C./60 mm Hg) leaving a crystalline residue, which was flash chromatographed (CH2Cl2 eluent) affording 4,5-dibenzyl-1,3-dioxolan-2-one as a colorless, crystalline compound (98 mg, 94%): mp 155°-156° C.; IR (KBr) 3020, 1783, 1200, 1166, 1150, 1092, 1067, 1030, 765, 755, 703 cm-1 ; 'H NMR (CDCl3) 2.88(m, 4H), 4.55(t, J=3 Hz, 2H), 7.33(m, 10H); MS (70 eV) C17H16O3 calcd. 268.3235 obsd. 268.1096.

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1,4-diphenyl-2,3-butanediol | 0.4 mmole, 96 mg | C1(=CC=CC=C1)CC(C(CC1=CC=CC=C1)O)O | C16H18O2
reactant | triethylamine | 1 mmole, 0.16 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 75 ml | C(C)OCC | C4H10O
product | 4,5-dibenzyl-1,3-dioxolan-2-one | C(C1=CC=CC=C1)C1OC(OC1CC1=CC=CC=C1)=O | C17H16O3
